US07842696B2
DIPEA (77 mg, 0.103 mL, 0.60 mmol) was added to a stirred solution of 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt (102 mg, 0.29 mmol) in DMF (1 mL). HOBT (32 mg, 0.29 mmol) and EDCI.HCl (46 mg, 0.29 mmol) were then added at room temperature. After 2 minutes, 4-benzoylbenzoic acid (45 mg, 0.20 mmol) was added and the resulting mixture was stirred at room temperature for 4 hrs. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 54 mg (51.9% yield) of 4-benzoyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide. LCMS Purity %: 91.57, HPLC Purity: 95.52%, 1H NMR (DMSO-d6): δ 8.8 (t, 1H), 8.1-8.0 (d, 2H), 7.9-7.64 (m, 7H), 7.6 (t, 3H), 4.3-4.1 (m, 2H), 3.8-3.5 (m, 4H), 3.5-3.4 (m, 2H), 3.2-3.1 (m, 2H).

reactant | DIPEA | 0.60 mmol, 0.103 mL, 77 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-amino-1-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethanone TFA salt | 0.29 mmol, 102 mg | OC(=O)C(F)(F)F.NCC(=O)N1CCN(CC1)C(C1=C(C=CC=C1)C(F)(F)F)=O
reactant | HOBT | 0.29 mmol, 32 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.29 mmol, 46 mg | CCN=C=NCCCN(C)C.Cl
reactant | 4-benzoylbenzoic acid | 0.20 mmol, 45 mg | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)O)C=C1 | C14H10O3
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 4-benzoyl-N-{2-oxo-2-[4-(2-trifluoromethyl-benzoyl)-piperazin-1-yl]-ethyl}-benzamide | 54 mg, 51.9% yield | C(C1=CC=CC=C1)(=O)C1=CC=C(C(=O)NCC(N2CCN(CC2)C(C2=C(C=CC=C2)C(F)(F)F)=O)=O)C=C1 | C28H24F3N3O4
